US05545755
Cis(+-)-5,6,7,8-Tetrahydro-8-propyl-7-(propylamino)-1-naphthalenol hydrochloride (E-4, Chart E).
A solution of 0.57 g (2.0 mmol) methoxy-amine cis(+-)-1,2,3,4-tetrahydro-8-methoxy-N,1-di-propyl-2-naphthalenamine hydrochloride in 10 mL 48% hydrobromic acid was refluxed (bath temperature, 120° C.) for eight hours. TLC analysis showed no starting material remaining. The mixture was cooled to room temperature, treated with 20% sodium hydroxide to pH 7-8, and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated in vacuo. The oil was converted to HCl-salt with excess anhydrous hydrochloric acid and recrystallized from ethyl acetate to give 0.36 g (64%) of pure title compound as a white solid: m.p. 244°-245° C.

reactant | methoxy-amine cis(+-)-1,2,3,4-tetrahydro-8-methoxy-N,1-di-propyl-2-naphthalenamine hydrochloride | 2.0 mmol, 0.57 g | Cl.COC=1C=CC=C2CC[C@@H]([C@@H](C12)CCC)NCCC.CON
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 10 mL | Br | BrH
product | Cis(+-)-5,6,7,8-Tetrahydro-8-propyl-7-(propylamino)-1-naphthalenol hydrochloride | 0.36 g, 64% | Cl.C(CC)[C@@H]1[C@@H](CCC=2C=CC=C(C12)O)NCCC | InChI=1S/C16H25NO.ClH/c1-3-6-13-14(17-11-4-2)10-9-12-7-5-8-15(18)16(12)13;/h5,7-8,13-14,17-18H,3-4,6,9-11H2,1-2H3;1H/t13-,14-;/m1./s1
